US07582625B2
2c) (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate
A solution of 2.50 g (4.38 mmol) (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate in 50 mL DCM was combined with 250 mg 10% Pd/C and hydrogenated at RT and 3 bar hydrogen pressure for 4.5 h. To complete the reaction a further 250 mg of catalyst were added, the mixture was hydrogenated for 12 h at 40° C., combined with 25 mL THF and 250 mg catalyst and hydrogenated for a further 12 h at 40° C. The catalyst was removed by suction filtering and the filtrate was concentrated by evaporation i. vac. The residue was stirred with DIPE, suction filtered and dried.

reactant | (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate | 4.38 mmol, 2.50 g | O=C1NC(=NN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)C(=O)O)C1=CC=CC=C1 | C32H34N4O6
reactant | hydrogen | [H][H] | H2
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate | O=C1NC(=NN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O)C1=CC=CC=C1 | C25H28N4O6
